US07732446B1
As described in example 1E, 50 mg of 1-(tert-butoxycarbonylamino-methyl)-6,8-dimethoxy-isoquinoline-4-carboxylic acid was coupled with 4-methoxy-benzylamine to give 48 mg of [6,8-dimethoxy-4-(4-methoxy-benzylcarbamoyl)-isoquinolin-1-ylmethyl]-carbamic acid tert-butyl ester. H1-NMR (CDCl3): δ, 8.43 (s, 1H), 7.35 (d, J=8.6 Hz, 2H), 6.91 (d, J=8.6 Hz, 2H), 6.87 (s, 1H), 6.68 (br s, 1H), 6.56 (s, 1H), 6.36 (br s, 1H), 5.00 (d, J=3.5 Hz, 2H), 4.66 (d, J=5.9 Hz, 2H), 3.95 (s, 3H), 3.88 (s, 3H), 3.82 (s, 3H), 1.51 (s, 9H); MS: APCI (M+H) calc'd for C26H31N3O6+H 482.5; found 482.0.

reactant | 1-(tert-butoxycarbonylamino-methyl)-6,8-dimethoxy-isoquinoline-4-carboxylic acid | 50 mg | C(C)(C)(C)OC(=O)NCC1=NC=C(C2=CC(=CC(=C12)OC)OC)C(=O)O | C18H22N2O6
reactant | 4-methoxy-benzylamine | COC1=CC=C(CN)C=C1 | C8H11NO
product | [6,8-dimethoxy-4-(4-methoxy-benzylcarbamoyl)-isoquinolin-1-ylmethyl]-carbamic acid tert-butyl ester | 48 mg | C(C)(C)(C)OC(NCC1=NC=C(C2=CC(=CC(=C12)OC)OC)C(NCC1=CC=C(C=C1)OC)=O)=O | C26H31N3O6
